US08293909B2
Ethyl 5-bromo-2-(4-fluorophenyl)-1H-indole-3-carboxylate.
Iron powder (710 mg, 13 mmol) was added to a stirred solution of ethyl 2-(5-bromo-2-nitrophenyl)-3-(4-fluorophenyl)-3-hydroxyacrylate (1.0 g, 2.4 mmol) in EtOH (20 mL)/AcOH (16 mL) in a 250 mL round bottomed flask. The flask was immediated placed in a preheated (100° C.) oil bath under an air condenser and the slurry was stirred vigorously. After 1.5 h, the reaction was cooled to r.t., diluted with EtOAc (200 mL), and the solids were removed by filtration. The filtrate was washed with water repeatedly until the organic phase was no longer red. The organic phase was then washed with sat'd NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated (PhMe azeotrope to remove residual AcOH) to give an off-white solid. The crude product was triturated with 1:1 CH2Cl2/hexanes and the filtrate purified by silica gel chromatography with a Biotage 40+M cartridge (gradient elution 10% to 40% EtOAc/hexanes over 10 column volumes, fraction collection at λ=254 nm). The off-white ppt. from above was further triturated with CH2Cl2 to give a white solid, and the filtrate was concentrated to give an off-white solid. Both ppt. and filtrate were chromatographed separately with the same method as above, but with fraction collection at λ=320 nm. Each of the three columns afforded two major peaks. The combined first peaks elute were concentrated to give the title compound (335 mg, 38% yield). 1H NMR (300 MHz, CDCl3) δ ppm 8.67 (br. s., 1H) 8.36 (br. s., 1H) 7.54-7.70 (m, 2H) 7.36 (d, J=7.68 Hz, 1H) 7.25 (t, J=7.68 Hz, 1H) 7.11 (t, J=8.23 Hz, 2H) 4.31 (q, J=6.83 Hz, 2H) 1.33 (t, J=7.14 Hz, 3H). LC/MS was performed on a Shimadzu-VP instrument with UV detection at 220 nm and Waters Micromass. LC/MS method: solvent A=5% CH3CN/95% H2O/10 mM NH4OAc, solvent B=95% CH3CN/5% H2O/10 mM NH4OAc, start % B=0, final % B=100, gradient time=2 min, stop time=3 min, flow rate=5 ml/min, column: XBridge C18 5 μm 4.6×50 mm; HPLC Rt=1.73, (ES+) m/z (MH+)=362, 364 (1:1 ratio).

reactant | ethyl 2-(5-bromo-2-nitrophenyl)-3-(4-fluorophenyl)-3-hydroxyacrylate | 2.4 mmol, 1.0 g | BrC=1C=CC(=C(C1)C(C(=O)OCC)=C(O)C1=CC=C(C=C1)F)[N+](=O)[O-] | C17H13BrFNO5
reactant | AcOH | 16 mL | CC(=O)O | C2H4O2
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Iron | 13 mmol, 710 mg | [Fe] | Fe
product | Ethyl 5-bromo-2-(4-fluorophenyl)-1H-indole-3-carboxylate | 335 mg, 38% yield | BrC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)F)C(=O)OCC | C17H13BrFNO2
